US04782155
Preparation of 6,7-dihydroxyisoquinoline
9.78 g (40.4 mol) of 6,7-dihydroxyisoquinoline hydrobromide was dissolved under heating in 400 ml of water and treated with 1 g of active carbon. The filtrate thereby obtained was adjusted to pH8.0 with a 8% aqueous ammonia, and the mixture was stirred under cooling with ice. The crystals formed were collected by filtration. They were washed with water and acetone and dried to obtain 6.08 g (yield: 93.4%) of the above identified compound.

reactant | 6,7-dihydroxyisoquinoline hydrobromide | 40.4 mol, 9.78 g | Br.OC=1C=C2C=CN=CC2=CC1O
reactant | ammonia | N | H3N
solvent | water | 400 ml | O | H2O
product | 6,7-dihydroxyisoquinoline | yield: 93.4% | OC=1C=C2C=CN=CC2=CC1O | C9H7NO2
